US04043791
The preparation of pentafluoroethoxy-substituted phenyl alkyl ketones is accomplished following the procedure of Belous et al., J. Org. Chem. (U.S.S.R.) 7, 1521 (1971). According to that procedure, p-bromophenol is allowed to react with trifluoroacetic anhydride in the presence of sulfur tetrafluoride and hydrogen fluoride, to yield pentafluoroethoxy-4-bromobenzene. This compound is allowed to react with isobutyraldehyde in the presence of n-butyllithium to yield the intermediate alcohol, isopropyl p-(pentafluoroethoxy)phenyl carbinol. This alcohol is oxidizied with chromium trioxide in the presence of aqueous acetic acid to yield the ketone, isopropyl p-(pentafluoroethoxy)phenyl ketone.

reactant | p-bromophenol | C1=CC(=CC=C1O)Br | C6H5BrO
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sulfur tetrafluoride | S(F)(F)(F)F | F4S
reactant | hydrogen fluoride | F | FH
product | pentafluoroethoxy-4-bromobenzene | FC(C(F)(F)F)(OC1=CC=C(C=C1)Br)F | C8H4BrF5O
